** sch_path: /foss/designs/sg13g2_scratch/dc_hbt_13g2.sch
**.subckt dc_hbt_13g2
Vce net3 GND 1.5
I0 GND net1 1u
Vc net3 net2 0
.save i(vc)
XQ1 net2 net1 GND GND npn13G2 Nx=1 mm_ok=1
**** begin user architecture code

.lib cornerHBT.lib hbt_typ



.options savecurrents
.include dc_hbt_13g2.save
.param temp=27
.control
save all
op
write dc_hbt_13g2.raw
set appendwrite
dc Vce 0 1.5 0.01 I0 0 5u 0.1u
write dc_hbt_13g2.raw
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
