** sch_path: /foss/designs/varactor/sp_svaricap_test.sch
**.subckt sp_svaricap_test
XC1 net1 net2 net4 sub! sg13_hv_svaricap w=3.74u l=0.3u Nx=10 mm_ok=1
V1 net2 GND 3.5
Vg1 net3 GND dc Vg
C2 net1 net6 1m
L3 net1 net3 1m
C3 net4 net5 1m
L4 net4 net7 1m
Vg2 net7 GND dc Vg
V2 net6 GND dc 0 ac 1 portnum 1 z0 50
V3 net5 GND dc 0 ac 1 portnum 2 z0 50
**** begin user architecture code

.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt



*.param temp=27
.param Vg=0
.control
save all
let points=71
set vgsp=$&points
set scratch=$curplot

let c_diff=vector($vgsp)
let r_diff=vector($vgsp)
let q_diff=vector($vgsp)
let Vg=vector($vgsp)
let ind=0
#let Vgate=vector($vgsp)
while ind<$vgsp
  let v1_act= 0.0+ind*0.1
  *let Vgate=v1_act
  alter Vg1 = v1_act
  print Vg1
  alter Vg2 = v1_act
  sp lin 1 20GHz 20GHz
  let s11_diff=(s_1_1+s_2_2-s_1_2-s_2_1)/2
  let z11_diff=2*50*(1+s11_diff)/(1-s11_diff)
  let c_diff[ind]=-1/imag(z11_diff)/(2*pi*20e9)
  let r_diff[ind]=real(z11_diff)
  let q_diff[ind]=-imag(z11_diff)/real(z11_diff)
  let Vg[ind]=v1_act-3.5
  let ind=ind+1
  destroy sp1
end
*setplot $scratch
wrdata sg13_lv_svaricap_cdiff.csv const.vg const.c_diff
wrdata sg13_lv_svaricap_qdiff.csv const.vg const.q_diff
echo
print const.vg const.c_diff


*plot i(v1)
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
